US07109184B2
((10-undecenyl)-hydroxyphosphinyl) methylphosphonic acid tri sodium salt
Bromotrimethylsilane (0.8 mL, 6.06 mmol) was added dropwise to ((10-undecenyl)-ethoxyphosphinyl) methylphosphonic acid dimethyl ester (0.250 g, 0.68 mmol) in a 3 mL vial. This solution was stirred for 14–16 hours at ambient temperature. Excess bromotrimethylsilane was removed by passing a steady stream of dry nitrogen over the solution for 2 hours. The residue was then placed under high vacuum for 3 hours to remove residual bromotrimethylsilane. Tributylamine (0.57 g, 3.08 mmol) and methanol (3 mL) was then added to the residue resulting in a clear solution. This mixture was added dropwise to a 0.5 M solution of NaI in acetone (10 mL, 5.0 mmol). A white solid precipitated immediately. The solid was collected by centrifugation and the acetone solution was discarded. The solid was then washed by suspension in clean acetone (20 mL), centrifugation and removal of acetone supernatant. After this washing procedure was completed 3 times, the solid was placed under vacuum for a period of 12–16 hours providing the desired product (0.19 g, 74% yield). 1H NMR (400 MHz D2O): δ 5.8 (m, 1H), 4.9 (m, 2H), 1.9 (m, 4H), 1.6 (m, 2H) 1.2 (m, 14H).

reactant | Bromotrimethylsilane | 6.06 mmol, 0.8 mL | Br[Si](C)(C)C | C3H9BrSi
reactant | ((10-undecenyl)-ethoxyphosphinyl) methylphosphonic acid dimethyl ester | 0.68 mmol, 0.250 g | COP(OC)(=O)CP(=O)(OCC)CCCCCCCCCC=C | C16H34O5P2
reactant | Tributylamine | 3.08 mmol, 0.57 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | NaI | [Na+].[I-]
reactant | acetone | 5.0 mmol, 10 mL | CC(=O)C | C3H6O
solvent | methanol | 3 mL | CO | CH4O
product | ((10-undecenyl)-hydroxyphosphinyl) methylphosphonic acid tri sodium salt | 0.19 g, 74% yield | [Na+].[Na+].[Na+].C(CCCCCCCCC=C)P(=O)(O)CP([O-])([O-])=O | InChI=1S/C12H26O5P2.3Na/c1-2-3-4-5-6-7-8-9-10-11-18(13,14)12-19(15,16)17;;;/h2H,1,3-12H2,(H,13,14)(H2,15,16,17);;;/q;3*+1/p-2
